US07067517B2
4-Cyclohexylmethyl-piperazine-1-carboxylic acid 4-(3-chloro-5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The hydrochloride of the title compound was prepared from 4-(3-chloro-5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate and 1-cyclohexylmethyl-piperazine, yield 76%. White crystals, m.p. 265–266° C.; IR (KBr): ν 1732 (C═O) cm−1.

reactant | 4-(3-chloro-5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC1=NC=C(C=C1Cl)C(F)(F)F | C13H6Cl2F3NO3
reactant | 1-cyclohexylmethyl-piperazine | C1(CCCCC1)CN1CCNCC1 | C11H22N2
reactant | KBr | [K+].[Br-]
product | 4-Cyclohexylmethyl-piperazine-1-carboxylic acid 4-(3-chloro-5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(C=C1)OC(=O)N1CCN(CC1)CC1CCCCC1 | C24H27ClF3N3O3
